US07122555B2
b) (RS,RS,RS)-2-tert-Butoxycarbonylamino-9,10-dimethoxy-1,3,4,6,7,11b-hexahydro-2H-pyrido [2,1-a]isoquinoline-3-carboxylic acid ethyl ester
Trifluoroacetic acid (120 mL) was added at 0° C. to a solution of 2-amino-9,10-dimethoxy-1,6,7,11b-tetrahydro-4H-pyrido[2,1-a]isoquinoline-3-carboxylic acid ethyl ester (6.90 g, 20.8 mmol) in tetrahydrofuran (60 mL), then after 30 min the homogeneous solution was treated with sodium borohydride (1.64 g, 41.5 mmol) and stirred for another 40 min. The reaction mixture was concentrated in vacuo and the residue partitioned between 2 M aq. sodium hydroxide solution and dichloromethane. The organic layer was washed with brine, dried (MgSO4) and evaporated. The residue was dissolved in dichloromethane (80 mL), and a solution of di-tert-butyl-dicarbonate (4.98 g, 22.8 mmol) in dichloromethane (50 mL) was added at r.t. The solution was stirred overnight at r.t., concentrated, and the residue was triturated in heptane to afford the title compound (7.44 g, 83%). Light yellow solid, MS (ISP) 435.4 (M+H)+.

reactant | Trifluoroacetic acid | 120 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-amino-9,10-dimethoxy-1,6,7,11b-tetrahydro-4H-pyrido[2,1-a]isoquinoline-3-carboxylic acid ethyl ester | 20.8 mmol, 6.90 g | C(C)OC(=O)C1=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)C1)N | C18H24N2O4
reactant | sodium borohydride | 41.5 mmol, 1.64 g | [BH4-].[Na+]
reactant | di-tert-butyl-dicarbonate | 22.8 mmol, 4.98 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (RS,RS,RS)-2-tert-Butoxycarbonylamino-9,10-dimethoxy-1,3,4,6,7,11b-hexahydro-2H-pyrido [2,1-a]isoquinoline-3-carboxylic acid ethyl ester | 7.44 g, 83% | C(C)OC(=O)C1C(CC2N(CCC3=CC(=C(C=C23)OC)OC)C1)NC(=O)OC(C)(C)C | C23H34N2O6
